data/oMe_Silver.jsonl
{"reaction_id": "NR-337_1-C_2-c2ccc(OC)cc2_3-[N+](=O)[O-]_4-S(=O)(=O)C_5-C(=O)OC","level": "medium","name": "Rosenmund-von Braun Reaction","reactants_smiles": ["c1(I)c(C)c(c2ccc(OC)cc2)c([N+](=O)[O-])c(S(=O)(=O)C)c1C(=O)OC","N#C[Cu]"],"products_smiles": ["c1(C#N)c(C)c(c2ccc(OC)cc2)c([N+](=O)[O-])c(S(=O)(=O)C)c1C(=O)OC"],"conditions": "High temperature","mechanism_step_nums": 2,"mechanism": [{"step": 1,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "[Cu](I)(C#N)c1c(C)c(c2ccc(OC)cc2)c([N+](=O)[O-])c(S(=O)(=O)C)c1C(=O)OC","step_weight": 0,"rationale": "High temperature promotes oxidative addition of the aryl iodide to Cu(I), facilitated by the weak C–I bond and good leaving group ability of iodide, forming a higher oxidation state Cu(III) intermediate with CN ligand."},{"step": 2,"type": "elimination","subtype": "reductive_elimination","intermediate_smiles": "c1(C#N)c(C)c(c2ccc(OC)cc2)c([N+](=O)[O-])c(S(=O)(=O)C)c1C(=O)OC","step_weight": 0,"rationale": "Reductive elimination from Cu(III) is favored by the strong bond formation between the aryl group and the nucleophilic CN, releasing stable Cu(I) and driving the reaction thermodynamically."}],"description": "In the Rosenmund–von Braun reaction, aryl iodide undergoes oxidative addition to a copper(I) cyanide species at high temperature, forming an aryl–Cu(III)–CN intermediate. Subsequent reductive elimination yields the aryl nitrile, driven by strong C–CN bond formation and thermodynamic stability."}
{"reaction_id": "NR-061_1-C(F)(F)F_2-C(C)(C)C","level": "easy","name": "Dieckmann Condensation","reactants_smiles": ["O(C(F)(F)F)C(=O)CCCC(=O)O(C(C)(C)C)"],"products_smiles": ["O(C(F)(F)F)C(=O)C1CCCC1=O"],"conditions": "Base","mechnism_text_description": "The Dieckmann condensation is the intramolecular reaction of diesters using strong bases yielding cyclic β-keto esters. It is the intramolecular variant of the Claisen condensation.","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "O(C(F)(F)F)C(=O)[CH-]CCCC(=O)O(C(C)(C)C)","step_weight": 0,"rationale": "Strong base abstracts the acidic α-proton due to resonance stabilization of the resulting enolate by the adjacent carbonyl group."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "O(C(F)(F)F)C(=O)C1C([O-])(O(C(C)(C)C))CCC1","step_weight": 0,"rationale": "The nucleophilic enolate attacks the electrophilic ester carbonyl intramolecularly, favored by proximity and formation of a stable five-membered ring."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "O(C(F)(F)F)C(=O)C1CCCC1=O","step_weight": 0,"rationale": "Elimination of the alkoxide occurs because it is a good leaving group, restoring the carbonyl and yielding the conjugated β-keto ester."}],"description": "Under basic conditions, the α-proton of one ester is deprotonated to form an enolate, which intramolecularly attacks the carbonyl of the second ester, forming a cyclic intermediate. Elimination of the alkoxide yields the stable β-keto ester product."}
